US09079839B2
Synthesis of (R)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl-butyl bromide
Dissolve (R)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl butanol (14.82 g, 50 mmol) and N,N-dimethyl formamide (0.4 g, 5.5 mmol) in methyl benzene (234 ml), add phosphorus oxybromide (15.05 g, 52.5 mmol) in droplets slowly, and control the temperature below 60° C. in that process; then, let them to react at 80° C. for 2 hours; cool down to room temperature, add water (234 ml), stir for 20 minutes, and separate the layers; extract the aqueous layer with petroleum ether for three cycles, combine the organic layers and wash twice with saturated sodium bicarbonate and saturated sodium chloride respectively; dry the organic layer with anhydrous sodium sulfate, filter, and condense the filtrate so as to obtain 17.2 g of oily matter. Add mixed solvent of ethyl acetate/normal hexane (17.2 ml/34.4 ml), control the product to crystallize at −10° C., filter, and treat the filter cake by vacuum drying at room temperature, so as to obtain 13.5 g of white solid matter; the yield is 75.1%, mp: 51-53° C., chiral purity: ≧99.9%.

reactant | (R)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl butanol | 50 mmol, 14.82 g | COC1=C(C=C(C[C@@H](CO)C(C)C)C=C1)OCCCOC | C17H28O4
reactant | N,N-dimethyl formamide | 5.5 mmol, 0.4 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxybromide | 52.5 mmol, 15.05 g | P(=O)(Br)(Br)Br | Br3OP
reactant | water | 234 ml | O | H2O
solvent | methyl benzene | 234 ml | CC1=CC=CC=C1 | C7H8
solvent | ethyl acetate normal hexane | 17.2 ml | C(C)(=O)OCC.CCCCCC
product | (R)-2-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-3-methyl-butyl bromide | 13.5 g, yield is 75.1% | COC1=C(C=C(C[C@@H](CBr)C(C)C)C=C1)OCCCOC | C17H27BrO3
